US09428452B2
Preparation of N-(2,4-dimethylphenyl)-2-ethoxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (Example 35)
To a solution of N-(2,4-dimethylphenyl)-2-hydroxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (15.7 mg, 0.035 mmol) and ethanol (4.8 mg, 0.105 mmol) in toluene (1.5 mL) stirred in air at 20° C., was added a solution of 2-(tributylphosphoranylidene)acetonitrile (8.47 mg, 0.035 mmol) in toluene (0.5 mL) over 1 minute. The reaction mixture was stirred at 20° C. for 24 hours. Additional 2-(tributylphosphoranylidene)acetonitrile (8.47 mg, 0.035 mmol) was then added and the reaction stirred for a further 2 hours. The solvent was evaporated in vacuo and the residue purified by pre-packed silica cartridge eluting with ethyl acetate-cyclohexane (0-50%). The relevant fractions were evaporated to give the title product, 8.7 mg. LCMS [LCMS1] Rt 1.48 min, m/z (ES+) 476 (M+H).

reactant | N-(2,4-dimethylphenyl)-2-hydroxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.035 mmol, 15.7 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C=C(C=C1)OCC1CCOCC1)O)CC(C)C | C24H33NO5S
reactant | ethanol | 0.105 mmol, 4.8 mg | C(C)O | C2H6O
reactant | 2-(tributylphosphoranylidene)acetonitrile | 0.035 mmol, 8.47 mg | C(CCC)P(=CC#N)(CCCC)CCCC | C14H28NP
reactant | 2-(tributylphosphoranylidene)acetonitrile | 0.035 mmol, 8.47 mg | C(CCC)P(=CC#N)(CCCC)CCCC | C14H28NP
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-dimethylphenyl)-2-ethoxy-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=C(C=C(C=C1)OCC1CCOCC1)OCC)CC(C)C | C26H37NO5S
